US08497274B2
(iii) Production of N-(3-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}phenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide
To a solution of 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid (165 mg, 0.74 mmol) in tetrahydrofuran (2 mL) were added oxalyl chloride (79 μL, 0.93 mmol) and N,N-dimethylformamide (10 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (1.2 mL). N-[6-(3-Aminophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide (200 mg, 0.62 mmol) was added to the solution, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate (12 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (10 mL) and saturated brine (10 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→80/20), and the obtained solution was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound (264 mg, 81%) as a white powder.

reactant | 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid | 0.74 mmol, 165 mg | ClC1=C(C(=O)O)C=CC=C1C(C)(C)C#N | C11H10ClNO2
reactant | oxalyl chloride | 0.93 mmol, 79 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 10 μL | CN(C=O)C | C3H7NO
reactant | N-[6-(3-Aminophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide | 0.62 mmol, 200 mg | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(C)=O)C=C2)C#N)C=CC1 | C16H12N4O2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}phenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 264 mg, 81% | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O | C27H20ClN5O3S
